.SUBCKT irf6218s_l 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 30, 09
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-4.28033 LAMBDA=0.223373 KP=7.77444
+CGSO=2.06692e-05 CGDO=1.76614e-07
RS 8 3 0.0728065
D1 1 3 MD
.MODEL MD D IS=7.67192e-10 RS=0.00988416 N=1.34281 BV=150
+IBV=0.00025 EG=1.2 XTI=4 TT=1e-07
+CJO=1.67593e-09 VJ=1.60787 M=0.6104 FC=0.5
RDS 3 1 1e+07
RD 9 1 0.0128309
RG 2 7 3.88066
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=2.75753e-09 VJ=0.5 M=0.9 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.407611 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 5.9258e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.407611
.ENDS irf6218s_l
*SPICE Thermal Model Subcircuit
.SUBCKT irf6218s_lt 4 1

R_RTHERM1         4 3  0.264069
R_RTHERM2         3 2  0.205597
R_RTHERM3         2 1  0.139579
C_CTHERM1         4 1  0.001079
C_CTHERM2         3 1  0.009081
C_CTHERM3         2 1  0.096848

.ENDS irf6218s_lt 


